US08865704B2
3-Amino-N-[trans-4-(4-isobutyryl-piperazine-1-carbonyl)-cyclohexyl methyl]-3-phenyl-propionamide
To a solution of (2-{[trans-4-(4-Isobutyryl-piperazine-1-carbonyl)-cyclohexylmethyl]-carbamoyl}-1-phenyl-ethyl)-carbamic acid tert-butyl ester (0.65 g, 1.21 mmol) in DCM (20 mL), H2SO4 (0.16 mL, 3.02 mmol) was added and the reaction was left stirring at room temperature for 18 hours. The mixture was diluted with 20 mL of NaOH 2N solution and the aqueous phase was concentrated under reduced pressure to give a white solid. The titled compound was extracted with EtOH. The solvent was removed under reduced pressure affording 0.13 g of the titled compound (24% yield).

reactant | (2-{[trans-4-(4-Isobutyryl-piperazine-1-carbonyl)-cyclohexylmethyl]-carbamoyl}-1-phenyl-ethyl)-carbamic acid tert-butyl ester | 1.21 mmol, 0.65 g | C(C)(C)(C)OC(NC(CC(NC[C@@H]1CC[C@H](CC1)C(=O)N1CCN(CC1)C(C(C)C)=O)=O)C1=CC=CC=C1)=O | C30H46N4O5
reactant | H2SO4 | 3.02 mmol, 0.16 mL | OS(=O)(=O)O | H2O4S
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | NaOH | 2N, 20 mL | [OH-].[Na+]
product | 3-Amino-N-[trans-4-(4-isobutyryl-piperazine-1-carbonyl)-cyclohexyl methyl]-3-phenyl-propionamide | 0.13 g, 24% yield | NC(CC(=O)NC[C@@H]1CC[C@H](CC1)C(=O)N1CCN(CC1)C(C(C)C)=O)C1=CC=CC=C1 | C25H38N4O3
